US07482469B2
C: 2-benzimidazol-1-yl-N-biphenyl-3-yl-acetamide (hydrochloride salt)
(1H-Benzimidazol-1-yl)acetic acid (triethylamine salt) (315 mg, 1.1 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexaflurophosphate (520 mg, 1.4 mmol), 3-amino biphenyl (290 mg, 1.6 mmol) and triethylamine (0.6 mL, 4.4 mmol) in acetonitrile (10 mL) was stirred at room temperature for 24 h. Methanol (10 mL) was then added and evaporated to dryness in vacuo. The crude mixture was then passed through a silica gel column eluting with ethyl acetate:methanol (1% up to 3% methanol). The product was collected and dried, dissolved in methanol and 1 M hydrogen chloride in diethyl ether (0.5 mL) added and product crystallised, filtered and dried to give the title compound as a white solid (70 mg, 17%). 1H NMR (400 MHz, CD3OD+1 drop of DMSO-d6) δ ppm 5.55 (2H, s), 7.32-7.35 (1H, m), 7.40-7.44 (4H, m), 7.56-7.59 (3H, m), 7.67-7.72 (2H, m), 7.89-7.96 (3H, m), 9.54 (1H, s). MS (ES) m/z 327.9 [M+H]+.

reactant | (1H-Benzimidazol-1-yl)acetic acid | 1.1 mmol, 315 mg | N1(C=NC2=C1C=CC=C2)CC(=O)O | C9H8N2O2
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexaflurophosphate | 1.4 mmol, 520 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 3-amino biphenyl | 1.6 mmol, 290 mg | NC=1C=C(C=CC1)C1=CC=CC=C1 | C12H11N
reactant | triethylamine | 4.4 mmol, 0.6 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | Methanol | 10 mL | CO | CH4O
product | 2-benzimidazol-1-yl-N-biphenyl-3-yl-acetamide | 70 mg, 17% | N1(C=NC2=C1C=CC=C2)CC(=O)NC=2C=C(C=CC2)C2=CC=CC=C2 | C21H17N3O
